US07968570B2
A mixture of 4-bromo-2-chloro-6-methyl-benzoic acid methyl ester (2.447 g, 9.27 mmol,), N-bromosuccinimide (1.815 g, 10.2 mmol), and benzoyl peroxide (0.051 g, 0.22 mmol) in carbon tetrachloride (30 mL) was refluxed until most of the starting materials were consumed (as analyzed by GC/MS). The resulting mixture was filtered and the filtrate concentrated to afford 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester. The product was used without further purification.

reactant | 4-bromo-2-chloro-6-methyl-benzoic acid methyl ester | 9.27 mmol, 2.447 g | COC(C1=C(C=C(C=C1C)Br)Cl)=O | C9H8BrClO2
reactant | N-bromosuccinimide | 10.2 mmol, 1.815 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.22 mmol, 0.051 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
